US09261783B2
With stirring in a nitrogen atmosphere, a mixture of 111 g of 1,1,1,3,3,3-hexafluoro-2-propanol and 700 ml of tetrahydrofuran was cooled below −40° C., to which 500 ml of a n-hexane solution of 2.64M n-butyllithium was added dropwise. At the temperature, the reaction mixture was stirred for 30 minutes. The cooling bath was changed to ice cooling, allowing the reaction mixture to warm to 5° C. A mixture of 50 g of isovaleraldehyde and 50 ml of tetrahydrofuran was added dropwise. With stirring, the reaction mixture was warmed up to room temperature, after which stirring was continued for a further 5 hours. The reaction mixture was poured into dilute hydrochloric acid and extracted with ether. The ether solution was washed, dried, and concentrated, obtaining crude 1,1,1,3,3-pentafluoro-4-hydroxy-2-heptanone. The crude product was combined with 50 g of water at room temperature, to which 100 g of 25 wt % sodium hydroxide aqueous solution was added. The mixture was stirred overnight at room temperature. With stirring, the mixture was slowly heated to 90° C. After cooling, the reaction mixture was extracted with n-hexane, with the hexane layer being discarded. The water layer was made acidic by adding 20 wt % hydrochloric acid, and extracted with ethyl acetate. The ethyl acetate solution was dried and concentrated, obtaining 107 g (qualitative yield) of the target compound, 2,2-difluoro-3-hydroxy-5-methylhexanoic acid (Intermediate 1). This crude product had a sufficient purity as an intermediate and was ready for use in the subsequent step.

reactant | 1,1,1,3,3,3-hexafluoro-2-propanol | 111 g | FC(C(C(F)(F)F)O)(F)F | C3H2F6O
reactant | n-butyllithium | 2.64M | C(CCC)[Li]
reactant | isovaleraldehyde | 50 g | C(CC(C)C)=O | C5H10O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | n-hexane | 500 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 700 ml | O1CCCC1 | C4H8O
product | 1,1,1,3,3-pentafluoro-4-hydroxy-2-heptanone | FC(C(C(C(CCC)O)(F)F)=O)(F)F | C7H9F5O2
